2192-11-01 11:04:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2192-10-31**] 11:50 PM
   Nasal swab for MRSA screen
 BLOOD CULTURED - At [**2192-11-1**] 03:00 AM
 BLOOD CULTURED - At [**2192-11-1**] 03:15 AM
 URINE CULTURE - At [**2192-11-1**] 04:30 AM
   Overnight,
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-1**] 03:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-11-1**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 73 (65 - 91) bpm
   BP: 113/65(76) {113/63(75) - 140/73(87)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
           Total In:
                                                                  1,600 mL
                                                                  2,360 mL
   PO:
           TF:
   IVF:
   2,160 mL
   Blood products:
   200 mL
   Total out:
                                                                    710 mL
                                                                    640 mL
   Urine:
                                                                     60 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                  1,720 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Dysarthric speech, comprehension
   appropriate.
   Labs / Radiology
   9.6 g/dL
   576 K/uL
   110 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   102 mEq/L
   133 mEq/L
   26.8 %
   18.9 K/uL
        [image002.jpg]
                            [**2192-10-31**]  09:59 PM
                            [**2192-11-1**]  03:17 AM
   WBC
   13.0
   18.9
   Hct
   27.7
   26.8
   Plt
   456
   576
   Cr
   0.8
   Glucose
   110
   Other labs: PT / PTT / INR:13.7/31.5/1.2, Alk Phos / T Bili:136/,
   Differential-Neuts:88.6 %, Lymph:7.8 %, Mono:3.4 %, Eos:0.2 %, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS -- attributed predominately to subdural hematoma,
   and active infection (urinary source).  Also consider seizure and
   post-ictal state.  Underlying abnormal brain function due to strokes
   and Biswengers.  Continue neurology checks.  EEG.
   SUBDURAL HEMATOMA -- left acute subdural hematoma by CT.  Neurorsurgery
   following.  Continue anticonvulsant (dilantin --> follow level)
   ANEMIA -- chronic, perhaps recent worsening following trauma.
   FLUIDS -- provide iv fluid bolus.
   NUTITIONAL SUPPORT -- remain NPO while dysarthric.  Begin PO once
   mental status improves.
   LEFT CLAVICLE FX -- pain control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-31**] 11:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed progress with daughter.
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2192-11-02 05:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Abx changed to CTX
   HCT, lytes stable
   Had EEG. Read pending
   Family concerned about nutrition since has not eaten much in days.
   Consulted speech/swallow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-1**] 03:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-2**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 82 (65 - 82) bpm
   BP: 140/70(84) {106/50(63) - 140/70(84)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  4,325 mL
                                                                    777 mL
   PO:
             TF:
   IVF:
                                                                  4,125 mL
                                                                    777 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,275 mL
                                                                    230 mL
   Urine:
                                                                  1,275 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,050 mL
                                                                    547 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: Thin male with eyes slightly open, not following commands or
   verbalizing
   HEENT: Sclerae anicteric, PEERL; oropharynx appears dry but no
   lesions, exudates, blood, or erythema
   Neck: Supple, no masses, no LAD, no cervical bruits appreciated
   CV: RRR, no M/R/G
   Pulm: CTAB anteriorly, unable to participate in exam, no wheeze, rale
   or ronchi, left shoulder with resolving eccymoses
   Abd: Soft, NT, BS+, no organomegaly appreciated, grimaces to L flank
   pressure c/w prior trauma
   Extrem: W& WP, no C/C/E, DP pulses 2+ bilaterally, ecchymosis
   over left shoulder
   Neuro: Does not respond to command, PERRL, CNII-XII grossly intact but
   unable to participate in exam; limbs with mild rigidity vs volitional
   resistance; LE with downward going toes b/l, 3 beat clonus on R, unable
   to appreciate on L
   Labs / Radiology
   576 K/uL
   9.6 g/dL
   86 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   11 mg/dL
   100 mEq/L
   134 mEq/L
   27.3 %
   18.9 K/uL
        [image002.jpg]
                            [**2192-10-31**]  09:59 PM
                            [**2192-11-1**]  03:17 AM
                            [**2192-11-1**]  04:42 PM
   WBC
   13.0
   18.9
   Hct
   27.7
   26.8
   27.3
   Plt
   456
   576
   Cr
   0.8
   0.7
   Glucose
   110
   86
   Other labs: PT / PTT / INR:13.7/31.5/1.2, ALT / AST:38/29, Alk Phos / T
   Bili:136/0.5, Differential-Neuts:88.6 %, Lymph:7.8 %, Mono:3.4 %,
   Eos:0.2 %, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   67 y.o. M with history of TIA's and Binswanger's disease recently
   discharged s/p fall p/w with AMS of one day's duration, with +UTI, ?PNA
   and e/o acute on chronic SDH.
   .
   # AMS: Likely multifactorial.  Patient with underlying Binswanger's
   disease, TIAs and chronic SDH.  Also with new UTI, ?PNA in left
   retrocardiac space, and acute SDH.  Also discharged with Percocet for
   pain relief which may be worsening overall process.  With question of
   PNA, patient did have chest tube on prior admission with effusion in
   that area and atelectasis (s/p so could be [**2-11**] to those processes).
   Also, given ICH, could be having occult seizure.
   - Per NS recs: Stop Aggrenox, 6 pack platelets, Re-check CT in AM, and
   re-check stat CT if neurological decline, treat infection/s with
   rocephin or levoflox, continue Dilantin 100 TID and check level in AM,
   consider MRI to r/o new infarct if mental status not improving
   after treatment of infection, consider routine EEG tomorrow if mental
   status not improving
   - Will treat UTI/PNA with Zosyn
   - d/c Flagyl unless e/o cavitary lesion on CXR
   - Follow-up blood/urine cultures at BIDN
   - Repeat UA/blood culture here
   - Q2H neuro checks
   - EEG in AM, Dilantin in interim
   - CT head in AM to r/o evolution or worsening
   - Hold narcotic medications
   - Transfuse platelets given Aggrenox
   - Monitor for e/o sepsis
   .
   # SDH: As above.  NS aware and following.  Will implement
   recommendations as pertinent.
   - CT head in AM for stability
   - Transfuse platelets now
   .
   # S/p fall with multiple fractures: On last hospitalization, pain
   management was an issue.  Will hold narcotics given AMS.
   - Hold narcotics
   - Consider lidoderm patch on L flank for rib pain
   .
   # O2 requirement: 99/2L.  Could be [**2-11**] to PNA.  Will attempt to wean to
   RA and further evaluate if unable.
   .
   # Dysphagia:  On last admission, apparently many issues with concern
   for aspiration.  Did consider Dobhoff vs. PEG.  Pt ultimately did pass
   S&S evaluation.  Given AMS, will hold PO nutrition.
   - NPO for AMS and aspiration risk.
   .
   # Binswanger's disease/Progressive neurological deterioration: On last
   admission given the patient's fall and concern for an increased tempo
   of the patient's illness he was evaluated by the inpatient
   neurology consult team.  They recommended continuing his outpatient
   regimen and further work-up of lumbar mass per below.
   - Hold outpatient medications while NPO
   - restart once MS clears
   .
   # Lumbar mass: Patient has a lumbar mass found incidentally on MRI
   L-spine to evaluate new bowel and bladder symptoms in [**Month (only) **].  The
   etiology of this is unknown.  To have LP as outpatient.
   - Defer to outpatient
   .
   # Dyslipidemia: Not an active issue.
   - Atorvastatin once no longer NPO
   .
   # Depression: Not an active issue.
   - Continue Citalopram dose once taking po
   .
   FEN: Hypovolemic - 1L NS; replete PRN; NPO
   .
   Ppx: SCDs, bowel regimen PRN
   .
   Code: Presumed Full (patient nonverbal, unable to reach wife)
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-31**] 11:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-11-02 12:23:00 Physician Attending Progress Note
Chief Complaint: Somnulance
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2192-11-1**] 03:00 PM
   Overall, improved overnight.  More alert, more awake.  Speech more
   clear, although remains mumbled.  Pt understands that speech and words
   are not correct.
   No seizures.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-1**] 03:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-11-2**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 65 (62 - 87) bpm
   BP: 116/69(80) {106/50(63) - 140/79(91)} mmHg
   RR: 16 (10 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  4,325 mL
                                                                  1,594 mL
   PO:
             TF:
   IVF:
                                                                  4,125 mL
                                                                  1,594 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,275 mL
                                                                    675 mL
   Urine:
                                                                  1,275 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,050 mL
                                                                    919 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   550 K/uL
   112 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   7 mg/dL
   100 mEq/L
   133 mEq/L
   28.7 %
   12.0 K/uL
        [image002.jpg]
                            [**2192-10-31**]  09:59 PM
                            [**2192-11-1**]  03:17 AM
                            [**2192-11-1**]  04:42 PM
                            [**2192-11-2**]  06:17 AM
   WBC
   13.0
   18.9
   12.0
   Hct
   27.7
   26.8
   27.3
   28.7
   Plt
   [**Telephone/Fax (3) 2060**]
   Cr
   0.8
   0.7
   0.7
   Glucose
   110
   86
   112
   Other labs: PT / PTT / INR:12.9/32.3/1.1, ALT / AST:38/29, Alk Phos / T
   Bili:136/0.5, Differential-Neuts:88.6 %, Lymph:7.8 %, Mono:3.4 %,
   Eos:0.2 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   ALTERED MENTAL STATUS
 attributed to infection on background of recent
   left SDH.  Improving with treatment of systemic infection.  Monitor.
   SDH
 likely traumatic (related to recent fall).  Stable by CT scan,
   and neurological exam improving.  Will likely need drainage in next
   several weeks, unless acute expansion.  Hope to transfer to medical
   [**Hospital1 **] as Neurological Checks reduced to every 4 hours.
   APHASIA
 Broca
s type aphasia, related to SDH or local head trauma.
   Monitor.
   SEPSIS
 evidence for UTI.  Antimicrobials.
   NUTRITIONAL SUPPORT
 PO as mental status improves.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-31**] 11:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussed plans with patient, wife and
   daughter.
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-11-03 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Neuro Checks now q4hr
   Passed Speech and Swallow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-1**] 03:30 AM
   Ceftriaxone - [**2192-11-2**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Improved dysarthria. Feeling improved. No fevers,
   chills, heacache, chest pain, shortness of breath.
   Flowsheet Data as of  [**2192-11-3**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 74 (62 - 89) bpm
   BP: 142/72(91) {112/61(76) - 154/83(97)} mmHg
   RR: 18 (10 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,207 mL
                                                                    119 mL
   PO:
             TF:
   IVF:
                                                                  3,207 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    500 mL
   Urine:
                                                                  1,605 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,602 mL
                                                                   -381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: Thin male with eyes slightly open, following commands with
   improved verbalizing although lethargic at times
   HEENT: Sclerae anicteric, PEERL;
   Neck: Supple, no masses, no LAD
   CV: RRR, no M/R/G
   Pulm: CTAB anteriorly,  no wheezes, rales or ronchi, left shoulder with
   resolving eccymoses
   Abd: Soft, NT, BS+, no organomegaly appreciated, grimaces to L flank
   pressure c/w prior trauma
   Extrem: W& WP, no C/C/E, DP pulses 2+ bilaterally, ecchymosis
   over left shoulder
   Neuro: CNII-XII grossly intact. Full range of motion of lower
   extremities. Limited LUE secondary to prior injury. Full ROM of RUE.
   Labs / Radiology
   550 K/uL
   10.0 g/dL
   112 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   7 mg/dL
   100 mEq/L
   133 mEq/L
   28.7 %
   12.0 K/uL
        [image002.jpg]
                            [**2192-10-31**]  09:59 PM
                            [**2192-11-1**]  03:17 AM
                            [**2192-11-1**]  04:42 PM
                            [**2192-11-2**]  06:17 AM
   WBC
   13.0
   18.9
   12.0
   Hct
   27.7
   26.8
   27.3
   28.7
   Plt
   [**Telephone/Fax (3) 2060**]
   Cr
   0.8
   0.7
   0.7
   Glucose
   110
   86
   112
   Other labs: PT / PTT / INR:12.9/32.3/1.1, ALT / AST:38/29, Alk Phos / T
   Bili:136/0.5, Differential-Neuts:88.6 %, Lymph:7.8 %, Mono:3.4 %,
   Eos:0.2 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   67yoM c hx  TIA's, Binswanger's, s/p fall p/w with AMS, now with ?
   +UTI, L acute on chronic SDH.
   .
   # Acute SDH: Mental status and mobility continues to improve.
   Dysarthria much improved. Neuro checks now q4hrs.
   -          continue dilantin, following levels
   -          f/u final EEG read
   -          Holding off giving more platelets currently
   -          Holding narcotics given prior change in MS
   -          Follow-up as outpatient with Neurosurgery 4-8 weeks.
   # UTI: Marginally positive U/A. UCx pending. Currently day [**3-16**] with
   Ceftriaxone for complicated UTI.
   -          follow-up UCx
   -          Cont Complicated UTI tx for 4 more days
   # S/P fall with multiple fractures:  Pt tolerating pain. Holding
   narcotics.
   - Would Consider lidoderm patch on L flank for rib pain if needed
   .
   # Dysphagia: Passed speech and swallow
   - Advance diet per nutrition recs
   .
   # Binswanger's disease/Progressive neurological deterioration
   - Holding outpatient medications given recent bleeding
   .
   # Lumbar mass: Incidental lumbar mass on MRI L-spine, etiology of this
   is unknown.
    - Defer to outpatient work-up
   .
   # Dyslipidemia: Not an active issue.
   - will consider Atorvastatin when taking good PO
   .
   # Depression: Not an active issue.
   - Continue Citalopram dose once taking po
   .
   FEN: Hypovolemic, - KVO; replete PRN; advancing diet per Speech Swallow
   .
   Ppx: Pneumoboots, Bowel Regimen PRN
   Code: Full
   Disp: To floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-31**] 11:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   [**Known lastname 2024**] CCU 67M admitted with subdural hematoma, altered mental
   status, mental status improving, no intervention
   Exam notable for Tm  99  HR  74  BP  142/72 RR  18 with 95 sat on ra
   awake alert oriented perrl moving all 4 extremities, left shoulder
   pain, rrr, abd benign
   Labs notable for WBC 10K, HCT 29 , Na 129 ,K+ 4.1 , HCO3 23 ,Cr .7
   Problems: subdural hematoma, altered mental status, UTI, baseline
   dementia
   Agree with plan to continue to follow neuro exam, continue dilantin,
   hold aggrenox, complete antibiotics
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2192-11-3**] 14:53 ------